R1 ( net1 net16)  R=5.1E6
T2 ( net16 net6 vdd! vdd!)  pfet  L=0.66E-6 W=7.53E-6
T3 ( net15 net6 vdd! vdd!)  pfet  L=0.66E-6 W=7.53E-6
T4 ( 0 net16 net6 vdd!)  pfet  L=0.66E-6 W=7.53E-6
T5 (net11 net13 net13 0) nfet L=1.07E-6 W=9.10E-6
T6 (net17 net12 net12 0) nfet L=4.35E-6 W=2.46E-6
R7 ( net5 net19)  R=8.0E5
T8 ( net19 net19 0 0)  nfet  L=8.27E-6 W=4.54E-6
T9 ( net9 net19 0 0)  nfet  L=8.27E-6 W=4.54E-6
T10 (net12 net11 net11 0) nfet L=1.23E-6 W=8.38E-6
C11 (net9 net14) C=6.6E-6
C12 (net18 net10) C=1.8E-13
C13 (net15 net5) C=3.2E-6
R14 (net11 net9) R=8.6E6
C15 (net5 net2) C=6.0E-14
T16 (net13 net4 net4 0) pfet L=1.11E-6 W=7.67E-6
C17 (net4 net11) C=7.0E-9
C18 (net7 net15) C=8.5E-13
R19 (net8 net17) R=0.8E6
T20 (0 0 0 0) nfet L=7.72E-6 W=6.95E-6
R21 (vdd! net14) R=1.2E2
R22 (net8 net13) R=2.0E3
T23 (0 net9 net9 0) nfet L=4.40E-6 W=8.78E-6
R24 (net9 net14) R=3.7E0
T25 (net10 net11 net11 0) nfet L=7.74E-6 W=6.61E-6

