R1 ( net18 net8)  R=5.9E5
T2 ( net8 net19 vdd! vdd!)  pfet  L=3.41E-6 W=5.60E-6
T3 ( net4 net19 vdd! vdd!)  pfet  L=3.41E-6 W=5.60E-6
T4 ( 0 net8 net19 vdd!)  pfet  L=3.41E-6 W=5.60E-6
C5 (net6 net3) C=7.0E-9
R6 ( net5 net7)  R=7.0E5
T7 ( net7 net7 vdd! vdd!)  pfet  L=7.43E-6 W=0.84E-6
T8 ( net7 net7 vdd! vdd!)  pfet  L=7.43E-6 W=0.84E-6
T9 (net14 net5 net5 0) pfet L=7.16E-6 W=8.86E-6
R10 (net15 net6) R=2.3E5
T11 (vdd! net4 net4 0) pfet L=1.58E-6 W=2.78E-6
T12 (0 net12 net12 0) nfet L=3.24E-6 W=7.92E-6
C13 (vdd! net15) C=4.7E-9
R14 (net2 net15) R=2.1E2
C15 (net2 net13) C=2.6E-13
C16 (net16 net18) C=2.8E-5
C17 (net3 net12) C=3.5E-14
R18 (net4 net12) R=9.9E4
C19 (net18 net15) C=5.5E-6
T20 (net10 net18 net18 0) pfet L=5.94E-6 W=8.61E-6
C21 (net12 net5) C=7.9E-11
C22 (net2 net5) C=5.4E-8
T23 (net14 net13 net13 0) pfet L=7.47E-6 W=5.72E-6
C24 (net1 net17) C=3.7E-8
R25 (net15 net5) R=5.7E2
T26 (net14 net3 net3 0) pfet L=0.33E-6 W=0.29E-6
T27 (net17 net15 net15 0) pfet L=5.43E-6 W=4.47E-6
R28 (net12 net18) R=1.3E3
T29 (net18 net11 net11 0) pfet L=0.33E-6 W=2.57E-6
C30 (net12 0) C=9.0E-8
R31 (net1 net14) R=5.1E6
T32 (net17 net2 net2 0) pfet L=2.81E-6 W=8.04E-6
T33 (net14 net15 net15 0) pfet L=2.31E-6 W=5.15E-6
R34 (net12 net14) R=6.7E6
T35 (net4 vdd! vdd! 0) nfet L=5.40E-6 W=8.35E-6
C36 (net16 0) C=3.1E-9
T37 (vdd! net18 net18 0) pfet L=2.24E-6 W=7.53E-6
T38 (net3 0 0 0) nfet L=7.48E-6 W=2.93E-6
T39 (net6 net12 net12 0) pfet L=5.29E-6 W=1.64E-6
R40 (net15 net17) R=2.5E1
R41 (net11 net16) R=2.3E2
T42 (net6 net2 net2 0) nfet L=9.38E-6 W=9.50E-6
T43 (net1 0 0 0) pfet L=7.86E-6 W=8.49E-6
C44 (net6 net17) C=0.6E-14
T45 (net18 net1 net1 0) nfet L=3.93E-6 W=2.52E-6
T46 (net12 net3 net3 0) pfet L=7.79E-6 W=2.76E-6
C47 (net18 net15) C=7.7E-12
T48 (net14 net4 net4 0) pfet L=2.28E-6 W=7.37E-6
C49 (0 net3) C=7.1E-13
T50 (net2 net14 net14 0) pfet L=7.88E-6 W=1.32E-6
R51 (net15 0) R=3.5E1
C52 (net13 net12) C=8.5E-6

