R1 ( net12 net16)  R=7.5E6
T2 ( net16 net16 vdd! vdd!)  pfet  L=4.19E-6 W=6.26E-6
T3 ( net7 net16 vdd! vdd!)  pfet  L=4.19E-6 W=6.26E-6
R4 (net15 net7) R=2.8E5
R5 ( net9 net7)  R=1.7E3
T6 ( net7 net11 0 0)  nfet  L=8.46E-6 W=4.26E-6
T7 ( net2 net11 0 0)  nfet  L=8.46E-6 W=4.26E-6
T8 ( net13 net7 net2 0)  nfet  L=8.46E-6 W=4.26E-6
C9 (net15 vdd!) C=5.6E-11
R10 (net12 net8) R=0.6E2
T11 (net1 net10 net10 0) nfet L=7.07E-6 W=9.92E-6
T12 (net1 net13 net13 0) pfet L=9.51E-6 W=3.56E-6
T13 (vdd! vdd! vdd! 0) pfet L=7.64E-6 W=2.33E-6
R14 (net10 net5) R=9.2E3
R15 (net1 net3) R=8.0E3
T16 (0 net14 net14 0) pfet L=1.01E-6 W=3.31E-6
C17 (net8 net9) C=2.4E-13

