R1 ( net21 net3)  R=5.2E0
T2 ( net3 net14 0 0)  nfet  L=3.32E-6 W=5.63E-6
T3 ( vdd! net14 0 0)  nfet  L=3.32E-6 W=5.63E-6
T4 ( vdd! net3 net14 0)  nfet  L=3.32E-6 W=5.63E-6
T5 (net4 net4 net4 0) pfet L=1.19E-6 W=1.92E-6
R6 (net19 net7) R=9.0E2
T7 (net18 net16 net16 0) pfet L=2.25E-6 W=3.58E-6
R8 (net9 net21) R=3.7E4
R9 ( vdd! net21)  R=6.2E5
T10 ( net21 net21 0 0)  nfet  L=1.60E-6 W=5.58E-6
T11 ( net9 net21 0 0)  nfet  L=1.60E-6 W=5.58E-6
R12 (net16 net13) R=4.3E3
T13 (net16 net11 net11 0) pfet L=8.06E-6 W=5.74E-6
C14 (net18 net16) C=0.9E-6
T15 (net7 net11 net11 0) nfet L=0.33E-6 W=4.57E-6
T16 (net13 net12 net12 0) pfet L=5.35E-6 W=5.67E-6

