R1 ( net1 net3)  R=1.5E1
T2 ( net3 net3 0 0)  nfet  L=2.02E-6 W=1.31E-6
T3 ( net11 net3 0 0)  nfet  L=2.02E-6 W=1.31E-6
R4 (net10 vdd!) R=5.7E2
T5 (net11 net2 net2 0) pfet L=4.29E-6 W=8.67E-6
R6 (net11 vdd!) R=0.5E1
T7 (net9 net1 net1 0) pfet L=3.95E-6 W=3.63E-6
R8 ( net4 net11)  R=3.8E2
T9 ( net11 net2 vdd! vdd!)  pfet  L=2.94E-6 W=2.98E-6
T10 ( net11 net2 vdd! vdd!)  pfet  L=2.94E-6 W=2.98E-6
T11 ( 0 net11 net2 vdd!)  pfet  L=2.94E-6 W=2.98E-6
C12 (net10 net8) C=3.9E-10
C13 (net5 net1) C=9.0E-6
T14 (net13 net10 net10 0) nfet L=9.68E-6 W=4.52E-6
C15 (net7 net4) C=0.8E-13
T16 (net1 net9 net9 0) pfet L=9.13E-6 W=0.69E-6
C17 (net10 net7) C=9.6E-9
C18 (net7 net1) C=5.7E-14
T19 (net5 net6 net6 0) pfet L=7.38E-6 W=2.90E-6
T20 (net4 net6 net6 0) nfet L=9.10E-6 W=8.53E-6
C21 (net10 net12) C=3.0E-12
C22 (net7 net5) C=7.9E-13
T23 (net4 net12 net12 0) nfet L=6.59E-6 W=4.51E-6
C24 (net7 net10) C=1.3E-12
T25 (net13 net10 net10 0) nfet L=0.76E-6 W=8.27E-6
R26 (net7 net5) R=3.4E0
R27 (net5 net8) R=6.6E2
C28 (net1 net4) C=6.1E-13
C29 (net5 net4) C=6.6E-13
R30 (net9 net13) R=2.9E4
C31 (net10 net9) C=6.5E-6
R32 (net6 net4) R=9.9E3
C33 (net8 net10) C=9.1E-13
T34 (net5 net9 net9 0) pfet L=5.36E-6 W=9.73E-6
R35 (net1 net6) R=2.0E1
R36 (net1 net8) R=8.9E1
C37 (net8 0) C=9.1E-14
T38 (net9 vdd! vdd! 0) pfet L=1.59E-6 W=2.02E-6
T39 (net8 net7 net7 0) nfet L=1.08E-6 W=9.24E-6
T40 (net10 net12 net12 0) nfet L=3.36E-6 W=5.23E-6
T41 (net1 net12 net12 0) nfet L=6.86E-6 W=8.83E-6
C42 (net12 net4) C=0.5E-11
T43 (net9 net7 net7 0) pfet L=4.77E-6 W=9.91E-6
T44 (0 net5 net5 0) pfet L=7.55E-6 W=5.65E-6
C45 (net10 net4) C=4.0E-10
C46 (net4 net12) C=9.4E-14
R47 (net9 net5) R=7.6E2

