R1 ( net35 net30)  R=8.5E3
T2 ( net30 net30 net4 0)  nfet  L=0.99E-6 W=2.69E-6
T3 ( net4 net15 0 0)  nfet  L=0.99E-6 W=2.69E-6
T4 ( net15 net15 0 0)  nfet  L=0.99E-6 W=2.69E-6
T5 ( net25 net30 net15 0)  nfet  L=0.99E-6 W=2.69E-6
C6 (net29 vdd!) C=9.5E-10
R7 ( net13 net6)  R=1.4E4
T8 ( net6 net6 net12 vdd!)  pfet  L=0.82E-6 W=9.51E-6
T9 ( net12 net28 vdd! vdd!)  pfet  L=0.82E-6 W=9.51E-6
T10 ( net28 net28 vdd! vdd!)  pfet  L=0.82E-6 W=9.51E-6
T11 ( net1 net6 net28 vdd!)  pfet  L=0.82E-6 W=9.51E-6
T12 (net19 net18 net18 0) pfet L=1.11E-6 W=9.10E-6
R13 (net32 net25) R=1.4E6
T14 (net11 net27 net27 0) nfet L=5.13E-6 W=3.42E-6
C15 (net9 net31) C=4.3E-11
R16 (net35 net19) R=4.1E1
C17 (0 net29) C=7.5E-11
T18 (0 vdd! vdd! 0) pfet L=5.19E-6 W=7.62E-6
R19 (net17 net34) R=1.0E0
R20 (net31 net29) R=4.9E5
R21 (net14 net22) R=6.2E1
R22 (net31 net36) R=4.5E5
T23 (net8 net13 net13 0) pfet L=6.46E-6 W=5.54E-6
R24 (net2 net16) R=3.6E0
T25 (net27 net5 net5 0) pfet L=2.10E-6 W=3.52E-6
C26 (net5 net29) C=1.2E-14
R27 (net10 net14) R=9.1E4
C28 (net37 net17) C=9.5E-9
T29 (net11 net11 net11 0) nfet L=8.77E-6 W=7.71E-6
T30 (net11 vdd! vdd! 0) nfet L=8.08E-6 W=5.64E-6
T31 (net25 vdd! vdd! 0) pfet L=6.70E-6 W=1.96E-6
T32 (net13 net1 net1 0) nfet L=0.38E-6 W=1.58E-6
T33 (net31 0 0 0) nfet L=3.01E-6 W=1.06E-6
C34 (vdd! net13) C=4.5E-14
C35 (net26 net1) C=2.5E-13

