R1 ( net11 net13)  R=1.8E3
T2 ( net13 net13 vdd! vdd!)  pfet  L=7.89E-6 W=7.42E-6
T3 ( net2 net13 vdd! vdd!)  pfet  L=7.89E-6 W=7.42E-6
R4 (net15 net11) R=0.2E1
R5 ( net18 net4)  R=1.7E4
T6 ( net4 net2 vdd! vdd!)  pfet  L=5.38E-6 W=1.17E-6
T7 ( net3 net2 vdd! vdd!)  pfet  L=5.38E-6 W=1.17E-6
T8 ( 0 net4 net2 vdd!)  pfet  L=5.38E-6 W=1.17E-6
T9 (net21 net12 net12 0) nfet L=8.11E-6 W=5.82E-6
T10 (net7 net11 net11 0) nfet L=0.41E-6 W=3.46E-6
C11 (net5 net6) C=8.6E-12
T12 (net6 net20 net20 0) pfet L=6.45E-6 W=9.70E-6
T13 (net17 vdd! vdd! 0) pfet L=4.13E-6 W=7.53E-6
T14 (vdd! net1 net1 0) pfet L=1.85E-6 W=3.67E-6
C15 (net12 net3) C=9.7E-11
C16 (net17 net10) C=6.8E-5
R17 (vdd! net16) R=0.6E5
C18 (net10 net20) C=3.7E-6
R19 (net6 vdd!) R=8.7E0
C20 (net8 net6) C=4.7E-7
R21 (net8 net9) R=7.7E1
T22 (net20 net21 net21 0) nfet L=1.51E-6 W=3.72E-6
C23 (net1 net5) C=7.9E-8
T24 (net5 net12 net12 0) pfet L=7.77E-6 W=3.50E-6
T25 (net8 net10 net10 0) pfet L=2.28E-6 W=9.17E-6
R26 (net17 net5) R=4.0E6
C27 (0 net11) C=9.2E-6
R28 (net9 net12) R=4.4E6
T29 (net7 net12 net12 0) nfet L=6.86E-6 W=5.68E-6
T30 (net19 net17 net17 0) pfet L=0.37E-6 W=9.13E-6
T31 (net12 net6 net6 0) pfet L=0.42E-6 W=4.38E-6
R32 (net9 net19) R=3.4E4
R33 (net7 net14) R=10.0E3
C34 (net17 net16) C=2.5E-12
T35 (net17 net20 net20 0) pfet L=6.09E-6 W=0.35E-6
C36 (0 net15) C=4.1E-14
C37 (net1 net7) C=5.0E-10
T38 (net6 net3 net3 0) nfet L=7.28E-6 W=7.66E-6
R39 (net1 net19) R=3.5E5
R40 (net19 net14) R=3.4E1
T41 (0 vdd! vdd! 0) nfet L=6.66E-6 W=8.50E-6
T42 (net3 net3 net3 0) nfet L=8.54E-6 W=9.24E-6
R43 (0 net18) R=0.9E4
T44 (net8 net15 net15 0) nfet L=3.52E-6 W=7.76E-6
T45 (net8 net12 net12 0) nfet L=4.76E-6 W=6.80E-6
T46 (net19 net15 net15 0) nfet L=5.33E-6 W=3.69E-6
T47 (vdd! net12 net12 0) pfet L=0.87E-6 W=3.60E-6
T48 (net6 net15 net15 0) pfet L=6.62E-6 W=6.42E-6
R49 (net16 net1) R=5.9E5
T50 (net7 net16 net16 0) nfet L=6.73E-6 W=3.41E-6
R51 (net14 net8) R=4.9E3
T52 (net11 net16 net16 0) pfet L=3.29E-6 W=0.79E-6
R53 (net11 net20) R=5.7E6
T54 (0 net7 net7 0) pfet L=1.27E-6 W=6.87E-6
T55 (net5 net16 net16 0) pfet L=5.67E-6 W=5.16E-6
T56 (net3 net8 net8 0) nfet L=9.66E-6 W=7.00E-6
R57 (net9 net19) R=1.8E6

